US07238701B2
Preparation of 2-{4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenylamino]-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-7-yl}-ethanol
To a solution of THF (40 mL) was added 7 g (13.3 mmol, 1 equiv) of {4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenylamino]-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-7-yl}-acetic acid ethyl ester. A 1M solution of diisobutylaluminum hydride in hexanes (53 mL, 53 mmol, 4 equiv) was added to the solution and the reaction was stirred at rt for 3 h. The reaction mixture was quenched with Rochelle's salt followed by EtOAc. The solution was separated and the aqueous layer discarded and the organic layer was washed with brine (100 mL) and water (100 mL). The resulting material 5.5 g (85%)was pure white solid of Example 137. 1H-NMR (DMSO-d6) δ 1.5 (m, 3H), 1.95 (m, 2H), 2.93 (dd,1H), 3.16 (2H), 3.53 (m,2H), 4.45 (t, 1H), 5.2 (s, 2H), 7.17 (m, 2H), 7.28 (m,2H), 7.43 (m, 1H), 7.5 (dd, 2H), 7.76 (dd, 1H), 8.05 (s, 1H). LCMS RT=3.46 min; [M+H]+=484.2.

reactant | {4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenylamino]-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-7-yl}-acetic acid ethyl ester | 13.3 mmol, 7 g, 1 equiv | C(C)OC(CC1CC2=C(C3=C(N=CN=C3NC3=CC(=C(C=C3)OCC3=CC(=CC=C3)F)Cl)S2)CC1)=O | C27H25ClFN3O3S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-{4-[3-Chloro-4-(3-fluoro-benzyloxy)-phenylamino]-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-7-yl}-ethanol | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)SC1=C2CCC(C1)CCO | C25H23ClFN3O2S
